US06403602B1
3-O-Propionylmorphine
The procedure employed was similar to the one utilized for obtaining the 3-O-acetyl ester of morphine, except that to the continuously stirred suspension of morphine free base (300 ma, 1.05 mmol.) an excess of propionic anhydride (600 μl, 4.68 mmol.) was added. This procedure afforded 0.357 gm. (99%) of the 3-O-propionyl ester of morphine as a colorless solid, homogeneous by TLC (CHCl3:MeOH (9:1), Rf=0.8). Elemental Analysis: Calcu. for C20H23NO4: C, 70:38; H, 6.75; N, 4.11. Found: C, 70.40; H, 6.79; N, 4.01.

reactant | morphine | 1.05 mmol | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | propionic anhydride | 4.68 mmol, 600 μl | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 3-O-Propionylmorphine | C(CC)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C20H23NO4
